US06414182B1
An amount of 20 g (0.5 mol) of sodium hydroxide and 20 ml of water were placed into a four-necked flask of 300 ml in capacity and then stirred to prepare a homogeneous solution. The temperature of this solution was reverted to room temperature, and then thereto a solution as prepared by dissolving 13.42 g (0.1 mol) of vinylbenzyl alcohol (mixture of m-isomer and p-isomer), 32.39 g (0.15 mol) of 1,4-dibromobutane, and 3.22 g (0.01 mol) of tetrabutylammonium bromide into 100 ml of toluene was added. While being vigorously stirred, the resultant mixed solution was allowed to react at 40° C. for 6 hours. Thereafter, the solution was separated and then sufficiently washed with water. The resultant organic layer was dried by adding thereto magnesium sulfate, and then toluene was distilled off under reduced pressure. The resultant solution was distilled in the presence of DPPH (diphenylpicryl-2-hydrazyl) under vacuum (boiling point: 125˜128° C./16 Pa) to obtain a colorless transparent liquid of 4-bromobutoxymethylstyrene. The yield amount was 15.0 g, and the yield ratio was 56 mol %.

reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | vinylbenzyl alcohol | 0.1 mol, 13.42 g | C(=C)C(C1=CC=CC=C1)O | C9H10O
reactant | 1,4-dibromobutane | 0.15 mol, 32.39 g | BrCCCCBr | C4H8Br2
catalyst | tetrabutylammonium bromide | 0.01 mol, 3.22 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromobutoxymethylstyrene | BrCCCCOCC=CC1=CC=CC=C1 | C13H17BrO
